US06939887B2
Synthesis of ethyl 2-chlorobenzyl[2,4-diamino-6-(trifluoromethyl)phenyl]carbamate
Ethyl 2-chlorobenzyl[2,4-dinitro-6-(trifluoromethyl)phenyl]carbamate (103.8 mg) was dissolved in ethyl acetate (20 ml), and to the solution was added 10% Pd—C (105.3 mg). The reaction mixture was stirred under hydrogen atmosphere for 7 hours. The catalyst was filtered, and washed with ethyl acetate. The filtrate was concentrated in vacuo to give the title compound (85.6 mg).

reactant | Ethyl 2-chlorobenzyl[2,4-dinitro-6-(trifluoromethyl)phenyl]carbamate | 103.8 mg | ClC1=C(CN(C(OCC)=O)C2=C(C=C(C=C2C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-])C=CC=C1 | C17H13ClF3N3O6
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 105.3 mg | [Pd] | Pd
product | ethyl 2-chlorobenzyl[2,4-diamino-6-(trifluoromethyl)phenyl]carbamate | 85.6 mg | ClC1=C(CN(C(OCC)=O)C2=C(C=C(C=C2C(F)(F)F)N)N)C=CC=C1 | C17H17ClF3N3O2
